US08470823B2
4-Chloro-2-ethylpyridin-3-amine (EE1)
Following a modified synthetic procedure reported in J. Org. Chem. 2006, 71, 7322, a to a stirred solution of 2-bromo-4-chloropyridin-3-amine (prepared as described in US2002/0119982) (1.0 eq.), and Pd(Ph3P)4 (0.05 eq.) in dry THF (0.05M) under argon was added dropwise Me3Al (1.0M in hexane, 2.0 eq.) and the reaction mixture was refluxed for O/N. The volatiles were removed under reduced pressure and the crude product was purified by flash chromatography eluting with 5-100% EtOAc/petroleum ether affording the titled compound as orange oil. 1H NMR (300 MHz, DMSO-d6, 300K) δ 7.67 (1H, d, J=5.2 Hz), 7.11 (1H, d, J=5.2 Hz), 5.26 (2H, br. s), 2.69 (2H, q, J=7.3 Hz), 1.73 (3H, t, J=7.3 Hz). MS (ES) C7H9ClN2 requires: 156, found: 157, 159 (M+H)+.

reactant | 2-bromo-4-chloropyridin-3-amine | 1.0 eq. | BrC1=NC=CC(=C1N)Cl | C5H4BrClN2
reactant | Me3Al | 1.0M, 2.0 eq. | C[Al](C)C
reactant | THF | 0.05M | C1CCOC1 | C4H8O
catalyst | Pd(Ph3P)4 | 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-2-ethylpyridin-3-amine | ClC1=C(C(=NC=C1)CC)N | C7H9ClN2
